US05360802
N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3-(phenylcarbonylaminosulphonyl) phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiaZepin-2-one (0.3 g, 0.69 mmol), triethylamine (96 μl, 0.69 mmol), dimethylformamide (6 ml) and 1-(phenylcarbonylaminosulphonyl)-3-aminobenzene (0.21 g, 0.76 mmol). After trituration with methanol, the compound (0.16 g, 41%) was afforded as a colourless solid. mp 200°-202° C. 1H NMR (360 MHz, D6 -DMSO) δ 0.91 (1H, m), 1.10-1.40 (3H, m), 1.42-1.69 (4H, m), 1.78 (1H, m), 1.92 (1H, m), 2.94 (1H, m), 3.32 (3H, s), 5.06 (1H, d, J=8.1 Hz), 7.36 (2H, m), 7.45-7.56 (6H, m), 7.62 (2H, m); 7.75 (1H, d, J=7.9 Hz), 7.84 (2H, m), 8.17 (1H, s), 9.42 (1H, s), 12.50 (1H, brs).

reactant | 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiaZepin-2-one | 0.69 mmol, 0.3 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.69 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 1-(phenylcarbonylaminosulphonyl)-3-aminobenzene | 0.76 mmol, 0.21 g | C1(=CC=CC=C1)C(=O)NS(=O)(=O)C1=CC(=CC=C1)N | C13H12N2O3S
solvent | methanol | CO | CH4O
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3-(phenylcarbonylaminosulphonyl) phenyl]urea | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)S(=O)(=O)NC(=O)C2=CC=CC=C2 | C30H31N5O5S
